US04567272
2-(2-hydroxyethylamino)-6-methoxy-3-nitropyridine
To a mixture of 188.6 g (1 mole) of 2-chloro-6-methoxy-3-nitropyridine with 350 ml of isopropanol, 83.5 g (1.4 mole) of aminoethanol are added drop by drop with cooling while stirring and maintaining a temperature of 25°-30° C. After the addition, the reaction mixture is continued to be stirred for another hour at a maximum of 30° and then 47.5 ml of 50% caustic soda solution are added drop by drop over the course of about 2 hours at a maximum temperature of 30° C. After 6 hours of stirring, 500 ml of water are stirred in and the product is filtered off with suction, is then washed sufficiently with water and is then dried. The compound is obtained in the form of a yellow powder with a melting point of 121°-2° C. and in a yield of 95.5% of theory.

reactant | 2-chloro-6-methoxy-3-nitropyridine | 1 mole, 188.6 g | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | isopropanol | 350 ml | C(C)(C)O | C3H8O
reactant | aminoethanol | 1.4 mole, 83.5 g | NC(C)O | C2H7NO
reactant | caustic soda | 47.5 ml | [OH-].[Na+]
solvent | water | 500 ml | O | H2O
product | 2-(2-hydroxyethylamino)-6-methoxy-3-nitropyridine | yield of 95.5% | OCCNC1=NC(=CC=C1[N+](=O)[O-])OC | C8H11N3O4
